US03987079
A mixture 3(2,2-dichlorovinyloxy)benzyl bromide (2.8 g), sodium p-toluene sulphonate (2.0 g) and methanol (20 ml) is warmed to 50° C for 1 hour, after which water (20 ml) and toluene (20 ml) is added with agitation. The toluene layer is separated, washed with water and concentrated by evaporation of the solvent under reduced pressure. The concentrate is then added dropwise to a 15% (w/v) aqueous solution of potassium hydroxide (100 ml) and the mixture warmed to 60° C for 1 hour, cooled to the ambient temperature and extracted with a mixture of toluene (10 ml) and methyl iso-butylketone (10 ml), the extracts dried over anhydrous magnesium sulphate and the solvents evaporated under reduced pressure to yield 3(2,2-dichlorovinyloxy)benzyl alcohol as a residual pale yellow oil.

reactant | 3(2,2-dichlorovinyloxy)benzyl bromide | 2.8 g | ClC(=COC=1C=C(CBr)C=CC1)Cl | C9H7BrCl2O
reactant | sodium p-toluene sulphonate | 2.0 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[Na+]
reactant | methanol | 20 ml | CO | CH4O
reactant | water | 20 ml | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3(2,2-dichlorovinyloxy)benzyl alcohol | ClC(=COC=1C=C(CO)C=CC1)Cl | C9H8Cl2O2
